US05763460
Cyclohexanecarboxylic acid (R)-[-1-methyl-2-(4-thiophen-2-yl-1,2,3,6-tetrahydropyrid-1-yl)-ethyl]-(pyrid-2-yl)-amide
The title compound was prepared from (R)-[1-methyl-2-(4-thiophen-2-yl-3,6-dihydro-2H-pyrid-1-yl)-ethyl]-pyrid-2-yl-amine (2.4 g, 8 mmol) and cyclohexanecarbonyl chloride (1.173 g, 8 mmol) in the manner described in Example 5 above to yield 2.7 g of title compound as the dihydrochloride, m.p. 103°-6° C.

reactant | (R)-[1-methyl-2-(4-thiophen-2-yl-3,6-dihydro-2H-pyrid-1-yl)-ethyl]-pyrid-2-yl-amine | 8 mmol, 2.4 g | C[C@H](CN1CCC(=CC1)C=1SC=CC1)NC1=NC=CC=C1 | C17H21N3S
reactant | cyclohexanecarbonyl chloride | 8 mmol, 1.173 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | Cyclohexanecarboxylic acid (R)-[-1-methyl-2-(4-thiophen-2-yl-1,2,3,6-tetrahydropyrid-1-yl)-ethyl]-(pyrid-2-yl)-amide | 2.7 g | C[C@H](CN1CCC(=CC1)C=1SC=CC1)N(C(=O)C1CCCCC1)C1=NC=CC=C1 | C24H31N3OS
